US06777406B2
(±)-cis-11-benzyl-6,7,10,11,12,12a-hexahydro-5H-[1,4]oxazepino[2,3,4-ij]pyrrolo[3,4-c]quinolin-9(9aH)-one
To a solution of tert-butyl 3,4-dihydro-1,5-benzoxazepine-5(2H)-carboxylate (2.15 g, 8.62 mmol) in 50 mL of diethyl ether at −78° C. was added N,N,N′,N′-tetramethylethylenediamine (1.6 mL, 10.35 mmol) and then sec-butyllithium (8.0 mL of a 1.3 M solution in cyclohexane, 10.35 mmol) was added dropwise via addition funnel. The mixture was stirred at −78° C. for 1 h and then N,N-dimethylformamide (1.0 mL, 12.93 mmol) was added dropwise in 10 mL of diethyl ether and the resulting mixture was stirred at −78° C. for 1 h. The reaction was quenched by the addition of 10 mL of saturated aqueous ammonium chloride and then was diluted with water and ethyl acetate. The organics were washed with 10% aqueous HCl, sat'd aq. sodium bicarbonate and brine, dried (MgSO4) and concentrated in vacuo. The residue was purified by flash chromatography (elution with 5:1 hexane/ethyl acetate) to afford 2.0 g (84%) of the title compound as an oil which was determined to be a mixture of the title compound and the 9-formyl regioisomer. The mixture of products was carried forward.

reactant | tert-butyl 3,4-dihydro-1,5-benzoxazepine-5(2H)-carboxylate | 8.62 mmol, 2.15 g | O1CCCN(C2=C1C=CC=C2)C(=O)OC(C)(C)C | C14H19NO3
reactant | N,N,N′,N′-tetramethylethylenediamine | 10.35 mmol, 1.6 mL | CN(CCN(C)C)C | C6H16N2
reactant | sec-butyllithium | C(C)(CC)[Li]
reactant | N,N-dimethylformamide | 12.93 mmol, 1.0 mL | CN(C=O)C | C3H7NO
reactant | diethyl ether | 50 mL | C(C)OCC | C4H10O
reactant | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | (±)-cis-11-benzyl-6,7,10,11,12,12a-hexahydro-5H-[1,4]oxazepino[2,3,4-ij]pyrrolo[3,4-c]quinolin-9(9aH)-one | 2.0 g, 84% | C(C1=CC=CC=C1)N1C[C@H]2C(N3C4=C(C=CC=C4[C@H]2C1)OCCC3)=O | C21H22N2O2
